US06057345
To a suspension of NaH (1.05 g, 50% dispersion in oil) in DMF (100 ml) at 0° C. was added a solution of ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)aminomethyl]benzoate dropwise. The mixture was stirred at 0° C. for 1 hour, ethyl iodide (3.43 g) added and the mixture stirred at ambient temperature for 18 hours. The mixture was acidified with acetic acid, poured into water (300 ml) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water (3×100 ml), dried and evaporated. The residue was purified by chromatography eluting with 4% ethyl acetate/CH2Cl2 to give ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylaminomethyl]benzoate (yield 6.61 g).

reactant | NaH | 1.05 g | [H-].[Na+]
reactant | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)aminomethyl]benzoate | C(C1=CC=CC=C1)OC1=C(CNCC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C24H24BrNO3
reactant | ethyl iodide | 3.43 g | C(C)I | C2H5I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylaminomethyl]benzoate | yield 6.61 g | C(C1=CC=CC=C1)OC1=C(CN(CC)CC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C26H28BrNO3
